US05144045
[[(3-Hexadecyloxy)-2-(iodomethyl)propoxy]methyl]benzene
A mixture of 5.3g of 3-[(hexadecyloxy)methyl]-4-(phenylmethoxy)-4-toluenesulfonyloxybutane, 4.2 g of sodium iodide and 50 ml of acetone is stirred at reflux for 2 days, then poured into water and extracted with dichloromethane. The extract is washed with saturated aqueous sodium bisulfite, dried and evaporated. The residue is purified by chromatography, to give 3.5 g of the desired compound as a light yellow oil.

reactant | 3-[(hexadecyloxy)methyl]-4-(phenylmethoxy)-4-toluenesulfonyloxybutane | 5.3g | C(CCCCCCCCCCCCCCC)OCC(CC)C(OS(=O)(=O)C=1C(=CC=CC1)C)OCC1=CC=CC=C1 | C35H56O5S
reactant | sodium iodide | 4.2 g | [I-].[Na+]
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | [[(3-Hexadecyloxy)-2-(iodomethyl)propoxy]methyl]benzene | 3.5 g | CCC(CCCCCCCCCCCCC)OCC(COCC1=CC=CC=C1)CI | C27H47IO2
